US08648066B2
7-(2-methyl-1H-imidazo[4,5-b]pyridin-6-yl)-4-(2,6,6-trimethyl-5,6,7,8-tetrahydroquinazolin-4-yl)-2,3,4,5-tetrahydro-1,4-benzoxazepine.
Prepared as acetate salt according to the method of example 5 by using 6-bromo-2-methyl-1-({[2-(trimethylsilyl)ethyl]oxy}methyl)-1H-imidazo[4,5-b]pyridine (reagent preparation 35) and [4-(2,6,6-trimethyl-5,6,7,8-tetrahydroquinazolin-4-yl)-2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl]boronic acid (reagent preparation 23) in step 1 followed by SEM deprotection. 1H NMR (400 MHz, methanol-d4): 8.52 (d, 1H), 8.05 (d, 1H), 7.63 (d, 1H), 7.50 (dd, 1H), 7.09 (d, 1H), 4.73 (s, 2H), 4.33 (m, 2H), 4.00 (m, 2H), 2.75 (t, 2H), 2.64 (s, 3H), 2.47 (s, 2H), 2.41 (s, 3H), 1.96 (s, 3H), 1.66 (t, 2H), 0.91 (s, 6H); MS (EI) for C27H30N6O: 455 (MH+).

reactant | 6-bromo-2-methyl-1-({[2-(trimethylsilyl)ethyl]oxy}methyl)-1H-imidazo[4,5-b]pyridine | BrC=1C=C2C(=NC1)N=C(N2COCC[Si](C)(C)C)C | C13H20BrN3OSi
reactant | [4-(2,6,6-trimethyl-5,6,7,8-tetrahydroquinazolin-4-yl)-2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl]boronic acid | CC1=NC=2CCC(CC2C(=N1)N1CCOC2=C(C1)C=C(C=C2)B(O)O)(C)C | C20H26BN3O3
product | 7-(2-methyl-1H-imidazo[4,5-b]pyridin-6-yl)-4-(2,6,6-trimethyl-5,6,7,8-tetrahydroquinazolin-4-yl)-2,3,4,5-tetrahydro-1,4-benzoxazepine | CC=1NC=2C(=NC=C(C2)C=2C=CC3=C(CN(CCO3)C3=NC(=NC=4CCC(CC34)(C)C)C)C2)N1 | C27H30N6O
